US08003649B2
Benzyl 4-hydroxy-4-(pyridin-3-yl)piperidine-1-carboxylate (32.7 g, 104.69 mmol) was dissolved in ethanol (350 mL) and hydrogenated over 10% palladium on carbon (3.2 g) at 2 bar pressure at 30° C. After hydrogen uptake was complete, the mixture was filtered through a pad of diatomaceous earth to remove the catalyst and the pad was washed with ethanol. The filtrate was concentrated to dryness under vacuum to give an oil which crystallised on standing overnight. The solid was triturated with MTBE (100 mL), collected by filtration, washed with MTBE (2×50 ml) and dried in a vacuum oven at 40° C. to afford 4-(pyridin-3-yl)piperidin-4-ol (14.9 g, 80%) as a solid.

reactant | Benzyl 4-hydroxy-4-(pyridin-3-yl)piperidine-1-carboxylate | 104.69 mmol, 32.7 g | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C=1C=NC=CC1 | C18H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 350 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 3.2 g | [Pd] | Pd
product | 4-(pyridin-3-yl)piperidin-4-ol | 14.9 g, 80% | N1=CC(=CC=C1)C1(CCNCC1)O | C10H14N2O
